US09162953B2
Preparation of 1-(4-pyrazol-1-yl-phenyl)ethanone
Following General Procedure A (90° C., 30 hours), 1H-pyrazole (205 mg, 3.0 mmol) is coupled with 1-(4-bromophenyl)ethanone (398 mg, 2.0 mmol). The crude brown oil is purified by flash chromatography on silica gel (eluent: dichloromethane/hexanes=50/50) to provide 300 mg (81% isolated yield) of the desired product as a white solid.

reactant | 1H-pyrazole | 3.0 mmol, 205 mg | N1N=CC=C1 | C3H4N2
reactant | 1-(4-bromophenyl)ethanone | 2.0 mmol, 398 mg | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
product | 1-(4-pyrazol-1-yl-phenyl)ethanone | N1(N=CC=C1)C1=CC=C(C=C1)C(C)=O | C11H10N2O
